US06492416B1
To a stirred solution of 2-chlorothioanisole (3.0 g) in 120 ml dichloromethane, were added slowly first 2.8 g of aluminum chloride and 3.0 g of phenylacetyl chloride at 0° C. The reaction mixture was stirred at the temperature for 12 hours. Then the reaction solution was poured onto ice and aqueous hydrochloric acid. The quenched solution was stirred for 30 minutes and extracted with dichloromethane (80 ml×3). The organic layer was washed with brine and was dried over anhydrous magnesium sulfate. After the magnesium sulfate was removed by filtration, the filtrate was concentrated in vacuo. The resulting residue was recrystallized from hexane and dichloromethane to give 3.6 g of 1-{3-chloro-4-(methylthio)phenyl}-2-phenyl-ethanone. mp: 101-102° C. NMR: δ2.51 (s, 3H), 4.22 (s, 2H), 7.17 (d, J=8.4 Hz, 1H), 7.25 (m, 3H), 7.32 (m, 2H), 7.87 (J=8.4, 1.8 Hz, 1H), 7.97 (d, J 1.8 Hz, 1H).

reactant | 2-chlorothioanisole | 3.0 g | ClC1=C(C=CC=C1)SC | C7H7ClS
reactant | aluminum chloride | 2.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenylacetyl chloride | 3.0 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 1-{3-chloro-4-(methylthio)phenyl}-2-phenyl-ethanone | 3.6 g | ClC=1C=C(C=CC1SC)C(CC1=CC=CC=C1)=O | C15H13ClOS
